US04672068
346 mg (1 mM) of 4-(3-nitrophenyl)-2,6-dimethyl-3-ethoxycarbonyl-1,4-dihydropyridine-5-carboxylic acid, 226 mg (1.1 mM) of dicyclohexylcarbodiimide, 122 mg (1 mM) of 4-dimethylaminopyridine and 192 mg (1.2 mM) of 5phenyl-2,4-pentadien-1-ol were dissolved in 10 ml of dichloroethane, and refluxed for 2 hours. Thereafter, the reaction mixture was treated in the same manner as Example 48, and 454 mg of ethyl 5-phenyl-2,4-pentadienyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate was obtained (yield 93%).

reactant | 4-(3-nitrophenyl)-2,6-dimethyl-3-ethoxycarbonyl-1,4-dihydropyridine-5-carboxylic acid | 1 mM, 346 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)O)C)C)C(=O)OCC | C17H18N2O6
reactant | dicyclohexylcarbodiimide | 1.1 mM, 226 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5phenyl-2,4-pentadien-1-ol | 1.2 mM, 192 mg | C1(=CC=CC=C1)C=CC=CCO | C11H12O
catalyst | 4-dimethylaminopyridine | 1 mM, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | ethyl 5-phenyl-2,4-pentadienyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 454 mg, yield 93% | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=CC=CC1=CC=CC=C1)C)C)C(=O)OCC | C28H28N2O6
